US05559111
a) N-Tert-butoxycarbonyl-2(R,S)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-[3-(methylsulfonyl-methoxy)-4-tert-butyl-phenyl]-octanoic acid (N-butyl)amide
With stirring at 0° C., a solution of 115 mg of potassium monopersulfate triple salt in 0.5 ml of water is added dropwise to a solution of 74 mg of N-tert-butoxycarbonyl-2(R,S)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-[3-(methylthio-methoxy)-4-tert-butyl-phenyl]-octanoic acid (N-butyl)amide in 0.5 ml of methanol and the mixture is then stirred at room temperature for a further 20 hours. The reaction mixture is partitioned between dichloromethane and water. The organic phases are concentrated by evaporation and the title compound is obtained from the residue by FC (11 g of silica gel, ethyl acetate/hexane=1:1): Rf (ethyl acetate/hexane=1:1)=0.26; FAB-MS (M+H)+ =627.

reactant | potassium monopersulfate triple salt | 115 mg | OS(=O)(=O)[O-].OS(=O)(=O)O[O-].OS(=O)(=O)O[O-].[O-]S(=O)(=O)[O-].[K+].[K+].[K+].[K+].[K+]
reactant | N-tert-butoxycarbonyl-2(R,S)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-[3-(methylthio-methoxy)-4-tert-butyl-phenyl]-octanoic acid (N-butyl)amide | 74 mg | C(CCC)NC(C(C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)C(C)(C)C)OCSC)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C33H58N2O5S
reactant | methanol | 0.5 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
product | N-Tert-butoxycarbonyl-2(R,S)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-[3-(methylsulfonyl-methoxy)-4-tert-butyl-phenyl]-octanoic acid (N-butyl)amide | C(CCC)NC(C(C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)C(C)(C)C)OCS(=O)(=O)C)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C33H58N2O7S
